US09260427B2
Prepared using General Procedure 7. To a stirred solution of (S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid (1000 mg, 1.762 mmol) and (R)-tert-butyl 2-aminopropanoate HCl (352 mg, 1.938 mmol) in DMF (8 mL). The solution was cooled to 0° C. and TEA (737 μl, 5.28 mmol) was added. To this mixture was slowly added HATU (804 mg, 2.114 mmol) over 5 mins then the reaction mixture was allowed to warm to room temperature. The reaction mixture was diluted with EA (150 mL) and washed with 1M HCl (100 mL) then brine (100 mL). The organic layer was isolated and dried over MgSO4. The solvents were removed to give a white solid and ACN (50 mL) was added and the suspension was sonicated. The fine suspension was stirred for 30 mins then filtered and washed with iso-hexanes to afford 881 mg (70.5%) of tert-butyl ((S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)-D-alaninate INT-23 as a white powder. LCMS-ESI (m/z) calculated for C41H50N4O6: 694.4; no m/z observed, tR=3.39 min (Method 11). The chiral purity was calculated at >99% e.e. (Chiral Method).

reactant | (S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoic acid | 1.762 mmol, 1000 mg | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C34H37N3O5
reactant | (R)-tert-butyl 2-aminopropanoate HCl | 1.938 mmol, 352 mg | Cl.N[C@@H](C(=O)OC(C)(C)C)C
reactant | HATU | 2.114 mmol, 804 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | EA | 150 mL | CC(OCC)=O | C4H8O2
product | tert-butyl ((S)-2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoyl)-D-alaninate | 881 mg, 70.5% | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)N[C@H](C)C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C41H50N4O6
